* LIFeling production SPICE validation deck
* authoritative_netlist=LIFeling.net
* netlist_sha256=d5a0bf3aa70e19a4470710342be6b2e11441efbc97374f23ff95af703fe9eeea
* netlist_export=2026-07-29T20:56:15
* kicad_tool=Eeschema 10.0.1
* source_lock_sha256=55df884890c53c1af35b7f03e638c13b9e68e5c5d7e3ac005e109ba13a78201c
* profile=hybrid
* test_name=60_tolerance_seed_3
* Connectivity is generated exclusively from physical pins in the KiCad export.
* Remaining approximations are enumerated in model_manifest.json and validation_report.md.
.option method=gear reltol=2e-4 abstol=1e-12 vntol=1e-7 chgtol=1e-14
.option itl1=1000 itl4=1000 gmin=1e-12
.temp 25
.include "../models/portable/lifeling_portable_models.lib"
.include "../models/compatible/MCP6001_ngspice.lib"

* --- physical sources and passives ---
VBT1_OC N_BT1_OC 0 DC 3
RBT1_INT N_BT1_OC P_BATT 20
RSW1 P_BATT VDD 150m
R_SW1_UNUSED unconnected_SW1_Pad3 0 1T
RR1 Net_U7_VOUT V_Boost 10.057212707
RR2 Vm_Out_DRV Vm_Ext 220.772061439
RR3 Vm_FB Vm_Out_DRV 9.92766459613k
RR4 0 Vm_FB 99.7300497021k
RR5 VREF_1V024_RAW VREF_2V048 217.825126699k
RR6 0 VREF_1V024_RAW 219.377372316k
RR7 V_Threshold VREF_1V024 20.1306726097k
RR8 V_Threshold 0 100.738914918k
RR9 VREF_1V024 V_Reset_Ref 99.5187372638k
RR10 0 V_Reset_Ref 55.717757638k
RR11 VDD V_Peak_Ref 99.7084666234k
RR12 0 V_Peak_Ref 993.053343767k
RR13 V_Logic_Mid VDD 221.99034119k
RR14 0 V_Logic_Mid 222.140362564k
RR15 Vm_Display_In Vm_Int 100.480371695k
RR16 Net_U20_NO V_Peak_Drive 9.99845932982k
RR17 VDD T4 100.495368035k
RR18 T4 T3 99.2523680616k
RR19 T3 T2 100.294547261k
RR20 T2 T1 99.6002398259k
RR21 T1 0 99.8738461248k
RR22 VDD S0 99.276292376k
RR23 T1 S0 1.00895953158Meg
RR24 VDD S1 99.0584047085k
RR25 T1 S1 994.390614102k
RR26 T2 S1 995.140079713k
RR27 VDD S2 100.717808735k
RR28 T2 S2 1.00902986581Meg
RR29 T3 S2 991.58591701k
RR30 VDD S3 100.640155598k
RR31 T3 S3 999.407512353k
RR32 T4 S3 1.00294084468Meg
RR33 VDD S4 100.123019245k
RR34 T4 S4 1.00891284196Meg
RR35 Net_R35_Pad1 Vm_Int 1.00360310372k
RR36 V_Threshold N_AP_Gate 2.18711412315Meg
RR37 VDD N_AP_Gate 10.0297442304k
RR38 VDD AP 99.1870759423k
RR39 0 N_Vkick 21.9065709165k
RR40 Net_R40_Pad1 0 100.723498813
RR41 0 Net_U2C_VINDP 199.210445621k
RR42 Net_U2C_VINDP Vm_Int 99.402041587k
RR43 Net_U2C_VIND V_Leak 100.098984795k
RR44 Net_U2C_VIND N_Adapt 201.910330724k
RR45 N_Adapt Net_D6_A 327.394857462k
RR46 Vm_Int N_Adapt_Current_Sink 10.0273936605k
RR47 N_Adapt_Base Vw_buff 21.9316873227k
RR48 N_Adapt_Base 0 99.6776207822k
RR49 N_Rising_AP 0 100.805298604k
RR50 0 Spike_Pulse 999.694602726k
RR51 VDD Peak_Window 100.151314289k
RR52 Net_U14_NO V_Peak_Drive 10.0451875672k
RR53 VDD Net_U6C_INC 22.0816286111k
RR54 N_Reset_Timer_Discharge Net_U6C_INC 100.864583618
RR55 VDD Reset_Window 100.218310209k
RR56 Net_U6C_INCP VDD 267.907016308k
RR57 Net_U6C_INCP Reset_Window 999.34333527k
RR58 0 Net_U6C_INCP 221.17044879k
RR59 VDD N_Reset_Injection_Enable 100.036076818k
RR60 N_Reset_Gated_Drive Vm_Int 10.0061427247k
RR61 Net_Q7_D Net_D9_B 2.01547320027k
RR62 Net_Q7_D Net_D9_G 1.98051488412k
RR63 Net_Q8_Pad3 Net_D9_R 1.98258078317k
RR64 Net_Q8_Pad1 Vm_Int 10.0175992088k
RR65 Net_Q8_Pad1 0 100.524208406k
RR66 Net_U15_NO V_Syn_State 21.8949832253k
RR67 Net_U15_IN Net_D10_A 1.00109830953k
RR68 0 Net_D10_A 100.365696149k
RR69 Syn1_Spike Net_D10_A 21.8596096045k
RR70 Net_U16_NO V_Syn_State 21.899435491k
RR71 Net_U16_IN Net_D12_A 997.996112711
RR72 0 Net_D12_A 99.7421127031k
RR73 Syn2_Spike Net_D12_A 22.0238142787k
RR74 Net_U17_NO V_Syn_State 21.837443476k
RR75 Net_U17_IN Net_D14_A 994.769951455
RR76 0 Net_D14_A 100.044747832k
RR77 Syn3_Spike Net_D14_A 21.9895530789k
RR78 Net_U18_NO V_Syn_State 22.0054545338k
RR79 Net_U18_IN Net_D16_A 990.961114579
RR80 0 Net_D16_A 100.857908991k
RR81 Syn4_Spike Net_D16_A 22.0938348526k
RR82 V_Syn_State Net_R82_Pad2 10.0216549115k
RR83 V_Syn_State Net_U1C_VINDP 1.00708158072Meg
RR84 Vm_Int Net_U1C_VINDP 996.053347082k
RR85 VREF_1V024 Net_U1C_VIND 1.00763469624Meg
RR86 Net_U1C_VIND N_V_Syn_Drive 1.00814994313Meg
RR87 N_V_Syn_Drive Vm_Int 46.7690668559k
RR88 VDD Net_U19_OUT 100.757645009k
RR89 Net_U19_OUT Spike_Out 100.542302187
RR90 VREF_1V024 V_Stim_Cmd 994.107605661k
RR91 Stimulus_Ext V_Stim_Cmd 999.689001743
RR92 Vm_Int Net_U23_INP 99.8994267336k
RR93 V_Stim_Cmd Net_U23_INP 198.466232412k
RR94 VREF_1V024 Net_U23_IN 198.120700238k
RR95 V_Stim_Drive Net_U23_IN 99.0855982089k
RR96 V_Stim_Drive Vm_Int 99.5796751808k
* RV1: physical pin1=GNDREF, wiper=/V_Leak_ref, pin3=V_Leak_Ref_Max, fraction=0.55
RRV1_1W 0 N_V_Leak_ref 45.560408769k
RRV1_W3 N_V_Leak_ref V_Leak_Ref_Max 37.2766980838k
* RV2: physical pin1=Net-(R35-Pad1), wiper=Vm_Int, pin3=V_Leak, fraction=0.5
RRV2_1W Net_R35_Pad1 Vm_Int 23.0882649382k
RRV2_W3 Vm_Int V_Leak 23.0882649382k
* RV3: physical pin1=Vw, wiper=Vw, pin3=Net-(R40-Pad1), fraction=0.5
RRV3_W3 Vw Net_R40_Pad1 48.1075953485k
* RV4: physical pin1=GNDREF, wiper=Vsel, pin3=VDD, fraction=0.1
RRV4_1W 0 Vsel 11.2389511775k
RRV4_W3 Vsel VDD 101.150560598k
* RV5: physical pin1=Net-(R82-Pad2), wiper=Net-(R82-Pad2), pin3=VREF_1V024, fraction=0.5
RRV5_W3 Net_R82_Pad2 VREF_1V024 49.1740491494k
* RV6: physical pin1=GNDREF, wiper=Net-(U1D-VINA+), pin3=VREF_2V048, fraction=0.5
RRV6_1W 0 Net_U1D_VINAP 496.577909425k
RRV6_W3 Net_U1D_VINAP VREF_2V048 496.577909425k
* RV7: physical pin1=GNDREF, wiper=Net-(U1A-VINB+), pin3=VREF_2V048, fraction=0.5
RRV7_1W 0 Net_U1A_VINBP 444.628077446k
RRV7_W3 Net_U1A_VINBP VREF_2V048 444.628077446k
* RV8: physical pin1=GNDREF, wiper=Net-(U3B-VINC+), pin3=VREF_2V048, fraction=0.5
RRV8_1W 0 Net_U3B_VINCP 429.132557133k
RRV8_W3 Net_U3B_VINCP VREF_2V048 429.132557133k
* RV9: physical pin1=GNDREF, wiper=Net-(U3C-VIND+), pin3=VREF_2V048, fraction=0.5
RRV9_1W 0 Net_U3C_VINDP 575.246220266k
RRV9_W3 Net_U3C_VINDP VREF_2V048 575.246220266k
* C1 10uF; effective=1.04473e-05F, ESR=0.009064ohm, ESL=9e-10H, leakage=1e+08ohm
LC1_ESL P_BATT N_C1_ESL 900p
RC1_ESR N_C1_ESL N_C1_ESR 9.06363454879m
CC1 N_C1_ESR 0 10.4472979206u
RC1_LEAK N_C1_ESR 0 100Meg
* C2 10uF; effective=8.824887e-06F, ESR=0.009862ohm, ESL=9e-10H, leakage=1.081e+08ohm
LC2_ESL VDD N_C2_ESL 900p
RC2_ESR N_C2_ESL N_C2_ESR 9.86165499703m
CC2 N_C2_ESR 0 8.82488677228u
RC2_LEAK N_C2_ESR 0 108.058043645Meg
* C3 100nF; effective=8.855252e-08F, ESR=0.09896ohm, ESL=4.5e-10H, leakage=1.088e+10ohm
LC3_ESL 0 N_C3_ESL 450p
RC3_ESR N_C3_ESL N_C3_ESR 98.9570276451m
CC3 N_C3_ESR VDD 88.5525240234n
RC3_LEAK N_C3_ESR VDD 10.8805481337G
* C4 100nF; effective=8.765167e-08F, ESR=0.09946ohm, ESL=4.5e-10H, leakage=1.099e+10ohm
LC4_ESL 0 N_C4_ESL 450p
RC4_ESR N_C4_ESL N_C4_ESR 99.4642505002m
CC4 N_C4_ESR VDD 87.651670933n
RC4_LEAK N_C4_ESR VDD 10.9923745862G
* C5 100nF; effective=9.314447e-08F, ESR=0.09649ohm, ESL=4.5e-10H, leakage=1.034e+10ohm
LC5_ESL 0 N_C5_ESL 450p
RC5_ESR N_C5_ESL N_C5_ESR 96.4869500683m
CC5 N_C5_ESR VDD 93.1444689765n
RC5_LEAK N_C5_ESR VDD 10.3441461483G
* C6 100nF; effective=9.959537e-08F, ESR=0.09331ohm, ESL=4.5e-10H, leakage=9.674e+09ohm
LC6_ESL 0 N_C6_ESL 450p
RC6_ESR N_C6_ESL N_C6_ESR 93.3098585715m
CC6 N_C6_ESR VDD 99.5953738336n
RC6_LEAK N_C6_ESR VDD 9.67414411848G
* C7 100nF; effective=9.601761e-08F, ESR=0.09503ohm, ESL=4.5e-10H, leakage=1.003e+10ohm
LC7_ESL 0 N_C7_ESL 450p
RC7_ESR N_C7_ESL N_C7_ESR 95.0323954645m
CC7 N_C7_ESR VDD 96.0176063812n
RC7_LEAK N_C7_ESR VDD 10.0346179864G
* C8 100nF; effective=9.340519e-08F, ESR=0.09635ohm, ESL=4.5e-10H, leakage=1.032e+10ohm
LC8_ESL 0 N_C8_ESL 450p
RC8_ESR N_C8_ESL N_C8_ESR 96.3521928208m
CC8 N_C8_ESR VDD 93.4051930839n
RC8_LEAK N_C8_ESR VDD 10.3152722904G
* C9 10uF; effective=9.094006e-06F, ESR=0.009715ohm, ESL=9e-10H, leakage=1.049e+08ohm
LC9_ESL VDD N_C9_ESL 900p
RC9_ESR N_C9_ESL N_C9_ESR 9.71464108242m
CC9 N_C9_ESR 0 9.09400591401u
RC9_LEAK N_C9_ESR 0 104.860279289Meg
* C10 22uF; effective=2.022871e-05F, ESR=0.008ohm, ESL=9e-10H, leakage=1e+08ohm
LC10_ESL 0 N_C10_ESL 900p
RC10_ESR N_C10_ESL N_C10_ESR 8m
CC10 N_C10_ESR Net_U7_VOUT 20.2287107109u
RC10_LEAK N_C10_ESR Net_U7_VOUT 100Meg
* C11 1uF; effective=9.787474e-07F, ESR=0.02892ohm, ESL=4.5e-10H, leakage=9.292e+08ohm
LC11_ESL V_Boost N_C11_ESL 450p
RC11_ESR N_C11_ESL N_C11_ESR 28.9183141654m
CC11 N_C11_ESR 0 978.74739298n
RC11_LEAK N_C11_ESR 0 929.18766019Meg
* C12 100nF; effective=9.528174e-08F, ESR=0.0954ohm, ESL=4.5e-10H, leakage=1.011e+10ohm
LC12_ESL V_Boost N_C12_ESL 450p
RC12_ESR N_C12_ESL N_C12_ESR 95.3986585963m
CC12 N_C12_ESR 0 95.2817427912n
RC12_LEAK N_C12_ESR 0 10.1121156244G
* C13 100pF; effective=1.02737e-10F, ESR=0.1ohm, ESL=4.5e-10H, leakage=1e+11ohm
LC13_ESL Vm_Ext N_C13_ESL 450p
RC13_ESR N_C13_ESL N_C13_ESR 100m
CC13 N_C13_ESR 0 102.737016606p
RC13_LEAK N_C13_ESR 0 100G
* C14 100nF; effective=9.06223e-08F, ESR=0.09782ohm, ESL=4.5e-10H, leakage=1.063e+10ohm
LC14_ESL V_Boost N_C14_ESL 450p
RC14_ESR N_C14_ESL N_C14_ESR 97.8204324469m
CC14 N_C14_ESR 0 90.6222981569n
RC14_LEAK N_C14_ESR 0 10.6320411157G
* C15 100nF; effective=9.693801e-08F, ESR=0.09458ohm, ESL=4.5e-10H, leakage=9.939e+09ohm
LC15_ESL VREF_2V048 N_C15_ESL 450p
RC15_ESR N_C15_ESL N_C15_ESR 94.5801622496m
CC15 N_C15_ESR 0 96.9380142416n
RC15_LEAK N_C15_ESR 0 9.9393412124G
* C16 22nF; effective=2.136461e-08F, ESR=0.2015ohm, ESL=4.5e-10H, leakage=4.51e+10ohm
LC16_ESL 0 N_C16_ESL 450p
RC16_ESR N_C16_ESL N_C16_ESR 201.465012417m
CC16 N_C16_ESR Vm_Display_In 21.3646094676n
RC16_LEAK N_C16_ESR Vm_Display_In 45.0979458089G
* C17 100nF; effective=1.058078e-07F, ESR=0.09053ohm, ESL=4.5e-10H, leakage=9.106e+09ohm
LC17_ESL VDD N_C17_ESL 450p
RC17_ESR N_C17_ESL N_C17_ESR 90.5291092203m
CC17 N_C17_ESR 0 105.807812147n
RC17_LEAK N_C17_ESR 0 9.10613290692G
* C18 470nF; effective=5.015844e-07F, ESR=0.04182ohm, ESL=6.5e-10H, leakage=1.943e+09ohm
LC18_ESL Net_U9_NO N_C18_ESL 650p
RC18_ESR N_C18_ESL N_C18_ESR 41.8204949231m
CC18 N_C18_ESR 0 501.584434192n
RC18_LEAK N_C18_ESR 0 1.94328199513G
* C19 100nF; effective=9.517074e-08F, ESR=0.09545ohm, ESL=4.5e-10H, leakage=1.012e+10ohm
LC19_ESL VDD N_C19_ESL 450p
RC19_ESR N_C19_ESL N_C19_ESR 95.454275359m
CC19 N_C19_ESR 0 95.1707426658n
RC19_LEAK N_C19_ESR 0 10.1239096492G
* C20 1uF; effective=1.030032e-06F, ESR=0.0288ohm, ESL=6.5e-10H, leakage=9.218e+08ohm
LC20_ESL Net_U10_NO N_C20_ESL 650p
RC20_ESR N_C20_ESL N_C20_ESR 28.8024627677m
CC20 N_C20_ESR 0 1.030032164u
RC20_LEAK N_C20_ESR 0 921.757623874Meg
* C21 100nF; effective=9.15144e-08F, ESR=0.09734ohm, ESL=4.5e-10H, leakage=1.053e+10ohm
LC21_ESL VDD N_C21_ESL 450p
RC21_ESR N_C21_ESL N_C21_ESR 97.3424799064m
CC21 N_C21_ESR 0 91.5143956603n
RC21_LEAK N_C21_ESR 0 10.5283982159G
* C22 2.2uF; effective=2.098107e-06F, ESR=0.02018ohm, ESL=6.5e-10H, leakage=4.525e+08ohm
LC22_ESL Net_U11_NO N_C22_ESL 650p
RC22_ESR N_C22_ESL N_C22_ESR 20.1809307173m
CC22 N_C22_ESR 0 2.09810708925u
RC22_LEAK N_C22_ESR 0 452.522182907Meg
* C23 100nF; effective=1.026937e-07F, ESR=0.09189ohm, ESL=4.5e-10H, leakage=9.382e+09ohm
LC23_ESL VDD N_C23_ESL 450p
RC23_ESR N_C23_ESL N_C23_ESR 91.8914768842m
CC23 N_C23_ESR 0 102.693691422n
RC23_LEAK N_C23_ESR 0 9.38227058218G
* C24 4.7uF; effective=5.005082e-06F, ESR=0.0132ohm, ESL=9e-10H, leakage=1.937e+08ohm
LC24_ESL Net_U12_NO N_C24_ESL 900p
RC24_ESR N_C24_ESL N_C24_ESR 13.2031060422m
CC24 N_C24_ESR 0 5.00508228536u
RC24_LEAK N_C24_ESR 0 193.69112129Meg
* C25 100nF; effective=9.572212e-08F, ESR=0.09518ohm, ESL=4.5e-10H, leakage=1.007e+10ohm
LC25_ESL VDD N_C25_ESL 450p
RC25_ESR N_C25_ESL N_C25_ESR 95.178961342m
CC25 N_C25_ESR 0 95.7221194561n
RC25_LEAK N_C25_ESR 0 10.0655940913G
* C26 10uF; effective=1.016727e-05F, ESR=0.009264ohm, ESL=9e-10H, leakage=1e+08ohm
LC26_ESL Net_U13_NO N_C26_ESL 900p
RC26_ESR N_C26_ESL N_C26_ESR 9.26359604679m
CC26 N_C26_ESR 0 10.1672669658u
RC26_LEAK N_C26_ESR 0 100Meg
* C27 100nF; effective=9.089542e-08F, ESR=0.09767ohm, ESL=4.5e-10H, leakage=1.06e+10ohm
LC27_ESL VDD N_C27_ESL 450p
RC27_ESR N_C27_ESL N_C27_ESR 97.6733594711m
CC27 N_C27_ESR 0 90.8954151175n
RC27_LEAK N_C27_ESR 0 10.6000946115G
* C28 100pF; effective=9.714929e-11F, ESR=0.1ohm, ESL=4.5e-10H, leakage=1e+11ohm
LC28_ESL 0 N_C28_ESL 450p
RC28_ESR N_C28_ESL N_C28_ESR 100m
CC28 N_C28_ESR Vm_Int 97.14928841p
RC28_LEAK N_C28_ESR Vm_Int 100G
* C29 1uF; effective=9.608484e-07F, ESR=0.03013ohm, ESL=6.5e-10H, leakage=1.009e+09ohm
LC29_ESL N_Vkick N_C29_ESL 650p
RC29_ESR N_C29_ESL N_C29_ESR 30.1338272535m
CC29 N_C29_ESR N_Adapt_Kick_Drive 960.84836621n
RC29_LEAK N_C29_ESR N_Adapt_Kick_Drive 1.0089417166G
* C30 10uF; effective=7.749516e-06F, ESR=0.01052ohm, ESL=9e-10H, leakage=1.231e+08ohm
LC30_ESL 0 N_C30_ESL 900p
RC30_ESR N_C30_ESL N_C30_ESR 10.5236669943m
CC30 N_C30_ESR Vw 7.74951561635u
RC30_LEAK N_C30_ESR Vw 123.052852231Meg
* C31 10nF; effective=1.000278e-08F, ESR=0.2944ohm, ESL=4.5e-10H, leakage=9.632e+10ohm
LC31_ESL AP N_C31_ESL 450p
RC31_ESR N_C31_ESL N_C31_ESR 294.433212152m
CC31 N_C31_ESR N_Rising_AP 10.0027780975n
RC31_LEAK N_C31_ESR N_Rising_AP 96.3232404645G
* C32 100nF; effective=1.032515e-07F, ESR=0.09164ohm, ESL=4.5e-10H, leakage=9.332e+09ohm
LC32_ESL VDD N_C32_ESL 450p
RC32_ESR N_C32_ESL N_C32_ESR 91.642936173m
CC32 N_C32_ESR 0 103.2514687n
RC32_LEAK N_C32_ESR 0 9.33158638935G
* C33 1uF; effective=9.17693e-07F, ESR=0.02986ohm, ESL=4.5e-10H, leakage=9.91e+08ohm
LC33_ESL 0 N_C33_ESL 450p
RC33_ESR N_C33_ESL N_C33_ESR 29.8647979649m
CC33 N_C33_ESR Net_U6C_INC 917.692958087n
RC33_LEAK N_C33_ESR Net_U6C_INC 991.006841652Meg
* C34 100nF; effective=8.952769e-08F, ESR=0.09842ohm, ESL=4.5e-10H, leakage=1.076e+10ohm
LC34_ESL VDD N_C34_ESL 450p
RC34_ESR N_C34_ESL N_C34_ESR 98.4166164182m
CC34 N_C34_ESR 0 89.5276879043n
RC34_LEAK N_C34_ESR 0 10.7620337636G
* C35 100nF; effective=8.748313e-08F, ESR=0.09956ohm, ESL=4.5e-10H, leakage=1.101e+10ohm
LC35_ESL VDD N_C35_ESL 450p
RC35_ESR N_C35_ESL N_C35_ESR 99.5600160431m
CC35 N_C35_ESR 0 87.4831299235n
RC35_LEAK N_C35_ESR 0 11.0135519939G
* C36 100nF; effective=9.547035e-08F, ESR=0.0953ohm, ESL=4.5e-10H, leakage=1.009e+10ohm
LC36_ESL VDD N_C36_ESL 450p
RC36_ESR N_C36_ESL N_C36_ESR 95.3043782103m
CC36 N_C36_ESR 0 95.470352024n
RC36_LEAK N_C36_ESR 0 10.0921383401G
* C37 100nF; effective=1.023608e-07F, ESR=0.09204ohm, ESL=4.5e-10H, leakage=9.413e+09ohm
LC37_ESL VDD N_C37_ESL 450p
RC37_ESR N_C37_ESL N_C37_ESR 92.0407609209m
CC37 N_C37_ESR 0 102.360836802n
RC37_LEAK N_C37_ESR 0 9.41277963433G
* C38 220nF; effective=2.315573e-07F, ESR=0.0612ohm, ESL=6.5e-10H, leakage=4.161e+09ohm
LC38_ESL 0 N_C38_ESL 650p
RC38_ESR N_C38_ESL N_C38_ESR 61.1952776519m
CC38 N_C38_ESR V_Syn_State 231.5572639n
RC38_LEAK N_C38_ESR V_Syn_State 4.16095778544G
* C39 100pF; effective=1.002388e-10F, ESR=0.1ohm, ESL=4.5e-10H, leakage=1e+11ohm
LC39_ESL V_Stim_Cmd N_C39_ESL 450p
RC39_ESR N_C39_ESL N_C39_ESR 100m
CC39 N_C39_ESR 0 100.238823936p
RC39_LEAK N_C39_ESR 0 100G
* C40 100nF; effective=8.813857e-08F, ESR=0.09919ohm, ESL=4.5e-10H, leakage=1.093e+10ohm
LC40_ESL VDD N_C40_ESL 450p
RC40_ESR N_C40_ESL N_C40_ESR 99.1891361226m
CC40 N_C40_ESR 0 88.138572581n
RC40_LEAK N_C40_ESR 0 10.9316496942G
* C41 100nF; effective=9.303705e-08F, ESR=0.09654ohm, ESL=4.5e-10H, leakage=1.036e+10ohm
LC41_ESL 0 N_C41_ESL 450p
RC41_ESR N_C41_ESL N_C41_ESR 96.5426353815m
CC41 N_C41_ESR VDD 93.0370494297n
RC41_LEAK N_C41_ESR VDD 10.3560893849G
* C42 100nF; effective=1.028856e-07F, ESR=0.09181ohm, ESL=4.5e-10H, leakage=9.365e+09ohm
LC42_ESL 0 N_C42_ESL 450p
RC42_ESR N_C42_ESL N_C42_ESR 91.8057225543m
CC42 N_C42_ESR VDD 102.885630255n
RC42_LEAK N_C42_ESR VDD 9.36476743747G
* C43 100nF; effective=9.143202e-08F, ESR=0.09739ohm, ESL=4.5e-10H, leakage=1.054e+10ohm
LC43_ESL 0 N_C43_ESL 450p
RC43_ESR N_C43_ESL N_C43_ESR 97.3863208697m
CC43 N_C43_ESR VDD 91.4320190768n
RC43_LEAK N_C43_ESR VDD 10.5378838806G
* L1 ANR3015T2R2M: datasheet-derived DCR=85mohm, Cp=12pF, Isat gate=2A
RL1_DCR VDD N_L1_DCR 85m
LL1 N_L1_DCR Net_U7_SW 2.36878852122u
CL1_PAR VDD Net_U7_SW 12p

* --- physical active devices ---
XU1A Net_U1D_VINAP V_Syn1_Set VDD 0 V_Syn1_Set MCP6001
XU1B Net_U1A_VINBP V_Syn2_Set VDD 0 V_Syn2_Set MCP6001
XU1C Vw Vw_buff VDD 0 Vw_buff MCP6001
XU1D Net_U1C_VINDP Net_U1C_VIND VDD 0 N_V_Syn_Drive MCP6001
XU2A AP N_Adapt_Kick_Drive VDD 0 N_Adapt_Kick_Drive MCP6001
XU2B V_Reset_Ref N_Reset_Injection_Drive VDD 0 N_Reset_Injection_Drive MCP6001
XU2C V_Peak_Ref V_Peak_Drive VDD 0 V_Peak_Drive MCP6001
XU2D Net_U2C_VINDP Net_U2C_VIND VDD 0 N_Adapt MCP6001
XU3A N_V_Leak_ref V_Leak VDD 0 V_Leak MCP6001
XU3B VREF_2V048 V_Leak_Ref_Max VDD 0 V_Leak_Ref_Max MCP6001
XU3C Net_U3B_VINCP V_Syn3_Set VDD 0 V_Syn3_Set MCP6001
XU3D Net_U3C_VINDP V_Syn4_Set VDD 0 V_Syn4_Set MCP6001
XU4A S0 0 T1 Vsel VDD LIF_TLV7041_OD
XU4B S1 0 Vsel T1 VDD LIF_TLV7041_OD
XU4C S1 0 T2 Vsel VDD LIF_TLV7041_OD
XU4D S4 0 Vsel T4 VDD LIF_TLV7041_OD
XU5A S2 0 Vsel T2 VDD LIF_TLV7041_OD
XU5B S2 0 T3 Vsel VDD LIF_TLV7041_OD
XU5C S3 0 Vsel T3 VDD LIF_TLV7041_OD
XU5D S3 0 T4 Vsel VDD LIF_TLV7041_OD
XU6A Peak_Window 0 Spike_Pulse V_Threshold VDD LIF_TLV7041_OD
XU6B unconnected_U6B_OUTB_Pad7 0 VDD 0 VDD LIF_TLV7041_OD
XU6C Reset_Window 0 Net_U6C_INCP Net_U6C_INC VDD LIF_TLV7041_OD
XU6D N_AP_Gate 0 V_Threshold Vm_Int VDD LIF_TLV7041_OD
XU7 0 Net_U7_VOUT 0 VDD Net_U7_SW VDD LIF_TPS610995_SWITCHING
RU7_PAD 0 0 1u
XU8 Vm_Display_In Vm_FB V_Boost 0 Vm_Out_DRV LIF_TLV9001
XU9 Net_U9_NO Vm_Int 0 S0 VDD LIF_TS5A3166
XU10 Net_U10_NO Vm_Int 0 S1 VDD LIF_TS5A3166
XU11 Net_U11_NO Vm_Int 0 S2 VDD LIF_TS5A3166
XU12 Net_U12_NO Vm_Int 0 S3 VDD LIF_TS5A3166
XU13 Net_U13_NO Vm_Int 0 S4 VDD LIF_TS5A3166
XU14 Net_U14_NO Vm_Int 0 Peak_Window VDD LIF_TS5A3166
XU15 Net_U15_NO V_Syn1_Set 0 Net_U15_IN VDD LIF_TS5A3166
XU16 Net_U16_NO V_Syn2_Set 0 Net_U16_IN VDD LIF_TS5A3166
XU17 Net_U17_NO V_Syn3_Set 0 Net_U17_IN VDD LIF_TS5A3166
XU18 Net_U18_NO V_Syn4_Set 0 Net_U18_IN VDD LIF_TS5A3166
XU19 Net_U19_OUT 0 Peak_Window V_Logic_Mid VDD LIF_TLV7031_PP
XU20 Net_U20_NO Vm_Display_In 0 Peak_Window VDD LIF_TS5A3166
XU21 VDD VREF_2V048 0 LIF_REF3020
XU22 VREF_1V024_RAW VREF_1V024 VDD 0 VREF_1V024 LIF_TLV9001
XU23 Net_U23_INP Net_U23_IN VDD 0 V_Stim_Drive LIF_TLV9041
XD1 Vm_Ext 0 LIF_TPD1E05U06
DD2 Vm_Int VDD LIF_BAT54WS
DD3 0 Vm_Int LIF_BAT54WS
DD4 0 N_Vkick LIF_1N4148WS
DD5 N_Vkick Vw LIF_1N4148WS
DD6 Net_D6_A Vw LIF_RB521S30
DD7 0 Vw LIF_1N4148WS
DD8 N_Rising_AP Spike_Pulse LIF_RB521S30
DD9_R VDD Net_D9_R LIF_LED_RED
DD9_G VDD Net_D9_G LIF_LED_GREEN
DD9_B VDD Net_D9_B LIF_LED_BLUE
DD10 Net_D10_A VDD LIF_BAT54WS
DD11 0 Net_D10_A LIF_BAT54WS
DD12 Net_D12_A VDD LIF_BAT54WS
DD13 0 Net_D12_A LIF_BAT54WS
DD14 Net_D14_A VDD LIF_BAT54WS
DD15 0 Net_D14_A LIF_BAT54WS
DD16 Net_D16_A VDD LIF_BAT54WS
DD17 0 Net_D16_A LIF_BAT54WS
XD18 Spike_Out 0 LIF_TPD1E05U06
XD19 Stimulus_Ext 0 LIF_TPD1E05U06
DD20 0 Spike_Pulse LIF_RB521S30
DD21 Vm_Display_In VDD LIF_BAT54WS
DD22 0 Vm_Display_In LIF_BAT54WS
MQ1 AP N_AP_Gate 0 0 LIF_BSS138
QQ2 N_Adapt_Current_Sink N_Adapt_Base 0 LIF_MMBT3904
MQ3 N_Reset_Timer_Discharge AP 0 0 LIF_BSS138
MQ4 N_Reset_Injection_Enable Peak_Window 0 0 LIF_BSS138
MQ5 N_Reset_Switch_Mid N_Reset_Injection_Enable N_Reset_Injection_Drive N_Reset_Injection_Drive LIF_BSS138
MQ6 N_Reset_Gated_Drive Reset_Window N_Reset_Switch_Mid N_Reset_Switch_Mid LIF_BSS138
MQ7 Net_Q7_D Reset_Window 0 0 LIF_BSS138
QQ8 Net_Q8_Pad3 Net_Q8_Pad1 0 LIF_MMBT3904

* --- external terminals ---
R_EXT_STIM_FLOAT Stimulus_Ext 0 1T
R_EXT_SYN1_FLOAT Syn1_Spike 0 1T
R_EXT_SYN2_FLOAT Syn2_Spike 0 1T
R_EXT_SYN3_FLOAT Syn3_Spike 0 1T
R_EXT_SYN4_FLOAT Syn4_Spike 0 1T
* J1 Stim_Ext: pin1=Vm_Ext, pin2=Stimulus_Ext, pin3=GNDREF
* J2 Axon_Output: pin1=Vm_Ext, pin2=Spike_Out, pin3=GNDREF
* J3 Syn1_Input: pin1=unconnected-(J3-Pad1), pin2=Syn1_Spike, pin3=GNDREF
* J4 Syn2_Input: pin1=unconnected-(J4-Pad1), pin2=Syn2_Spike, pin3=GNDREF
* J5 Syn3_Input: pin1=unconnected-(J5-Pad1), pin2=Syn3_Spike, pin3=GNDREF
* J6 Syn4_Input: pin1=unconnected-(J6-Pad1), pin2=Syn4_Spike, pin3=GNDREF
* H1: mechanical-only mounting hole
* H2: mechanical-only mounting hole
* H3: mechanical-only mounting hole
* H4: mechanical-only mounting hole
* H5: mechanical-only mounting hole
* H6: mechanical-only mounting hole
R_FLOAT_unconnected_J3_Pad1 unconnected_J3_Pad1 0 1T
R_FLOAT_unconnected_J4_Pad1 unconnected_J4_Pad1 0 1T
R_FLOAT_unconnected_J5_Pad1 unconnected_J5_Pad1 0 1T
R_FLOAT_unconnected_J6_Pad1 unconnected_J6_Pad1 0 1T
R_FLOAT_unconnected_SW1_Pad3 unconnected_SW1_Pad3 0 1T
R_FLOAT_unconnected_U6B_OUTB_Pad7 unconnected_U6B_OUTB_Pad7 0 1T

* --- analysis ---
.save v(VDD) v(V_Boost) v(VREF_2V048) v(VREF_1V024) v(V_Leak) v(Vm_Int) v(V_Threshold) v(AP) v(Spike_Pulse) v(Peak_Window) v(Reset_Window) v(Vm_Display_In) v(Vm_Ext) v(Spike_Out) v(V_Syn_State) v(N_V_Syn_Drive) v(V_Stim_Cmd) v(V_Stim_Drive) v(Vsel) v(S0) v(S1) v(S2) v(S3) v(S4) v(Vw) v(Vw_buff) v(N_Vkick) v(N_Adapt_Kick_Drive) v(N_Rising_AP) v(N_AP_Gate) v(V_Reset_Ref) v(N_Reset_Injection_Drive) v(N_Reset_Gated_Drive) v(V_Peak_Drive) v(V_Syn1_Set) v(V_Syn2_Set) v(V_Syn3_Set) v(V_Syn4_Set)
.tran 10u 250m 0 10u uic
.control
run
wrdata N_60_tolerance_seed_3.wrdata.txt v(VDD) v(V_Boost) v(VREF_2V048) v(VREF_1V024) v(V_Leak) v(Vm_Int) v(V_Threshold) v(AP) v(Spike_Pulse) v(Peak_Window) v(Reset_Window) v(Vm_Display_In) v(Vm_Ext) v(Spike_Out) v(V_Syn_State) v(N_V_Syn_Drive) v(V_Stim_Cmd) v(V_Stim_Drive) v(Vsel) v(S0) v(S1) v(S2) v(S3) v(S4) v(Vw) v(Vw_buff) v(N_Vkick) v(N_Adapt_Kick_Drive) v(N_Rising_AP) v(N_AP_Gate) v(V_Reset_Ref) v(N_Reset_Injection_Drive) v(N_Reset_Gated_Drive) v(V_Peak_Drive) v(V_Syn1_Set) v(V_Syn2_Set) v(V_Syn3_Set) v(V_Syn4_Set)
quit
.endc
.end
